US07977345B2
To a round bottom flask equipped with a magnetic stir bar was added 4-[9-(Tetrahydro-pyran-2-yl)-9H-purin-6-yloxy]-phenylamine (1.1 g, 3.60 mmol, 1.0 eq.), DCM (10 ml) and phenyl-acetyl isothiocyanate (0.643 g, 3.60 mmol, 1 eq). The reaction mixture was stirred at room temperature overnight. After removal of the solvent the product was purified by flash column chromatography on silica gel to give 2-phenyl-N-{[(4-{[9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl]oxy}phenyl)amino]-carbonothioyl}acetamide as a white solid (400 mg, 25% yield). 1H NMR (400 MHz, CDCl3): δ 12.40 (s, 1H), 8.80 (s; 1H), 8.60 (s, 1H), 8.30 (s, 1H), 7.80 (m, 2H), 7.20 (m, 7H), 5.9 (m, 1H), 4.20 (m, 1H), 3.8 (m, 2H), 2.20 (m, 3H), 1.80 (m, 4H). MS (ESI) for C25H24N6O3S: 489 (MH+).

reactant | 4-[9-(Tetrahydro-pyran-2-yl)-9H-purin-6-yloxy]-phenylamine | 3.60 mmol, 1.1 g, 1.0 eq. | O1C(CCCC1)N1C2=NC=NC(=C2N=C1)OC1=CC=C(C=C1)N | C16H17N5O2
reactant | phenyl-acetyl isothiocyanate | 3.60 mmol, 0.643 g, 1 eq | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-phenyl-N-{[(4-{[9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl]oxy}phenyl)amino]-carbonothioyl}acetamide | 400 mg, 25% yield | C1(=CC=CC=C1)CC(=O)NC(=S)NC1=CC=C(C=C1)OC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C25H24N6O3S
